US07982036B2
To a stirred solution of N4-(4-phenoxyphenyl)-N6-(piperidin-3-yl)pyrimidine-4,6-diamine (0.025 g, 0.069 mmol) in NMP (0.5 mL) at 0° C. was added acryloyl chloride (0.007 g, 0.083 mmol), and the reaction mixture was stirred at 0° C. for 5 min. The reaction mixture was quenched by adding 10% NaHCO3 solution and it was extracted with EtOAc (2×5 mL). The combined EtOAc extract was washed with water (3 mL) and brine (3 mL), was dried over Na2SO4 and was concentrated under reduced pressure. The residue obtained was purified by column chromatography (SiO2, 230-400, chloroform/methanol: 98/2) to give 1-(3-(6-(4-phenoxyphenylamino)pyrimidin-4-ylamino)piperidin-1-yl)prop-2-en-1one (I-86) as an off white solid. 1H NMR (MeOD) δ ppm: 1.5-1.75 (m, 2H), 1.80-2.00 (m, 1H), 2.0-2.20 (m, 1H), 2.70-2.90 (m, 1H), 2.90-3.05 (m, 1H), 3.80-4.00 (m, 2H), 4.30-4.45 (m, 1H), 5.65 & 5.75 (d, J=10.8 Hz & d, J=10.8 Hz respectively, together 1H), 5.81 (d, J=10.8 Hz, 1H), 6.14 & 6.18 (d, J=17.2 Hz & d, J=19.2 Hz respectively, together 1H), 6.60-6.70 & 6.70-6.85 (m, together 1H), 6.97-7.00 (m, 4H), 7.04 (t, J=7.6 Hz, 1H), 7.32-7.38 (m, 4H), 8.04 & 8.07 (s, together 1H); LCMS: m/e 416.1 (M+1).

reactant | N4-(4-phenoxyphenyl)-N6-(piperidin-3-yl)pyrimidine-4,6-diamine | 0.069 mmol, 0.025 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)NC1=NC=NC(=C1)NC1CNCCC1 | C21H23N5O
reactant | acryloyl chloride | 0.083 mmol, 0.007 g | C(C=C)(=O)Cl | C3H3ClO
solvent | NMP | 0.5 mL | CN1CCCC1=O | C5H9NO
product | 1-(3-(6-(4-phenoxyphenylamino)pyrimidin-4-ylamino)piperidin-1-yl)prop-2-en-1one | O(C1=CC=CC=C1)C1=CC=C(C=C1)NC1=CC(=NC=N1)NC1CN(CCC1)C(C=C)=O | C24H25N5O2
